US04640708
A slight excess of benzoyl chloride was added to a suspension of the sodium salt of 5-(2,4-dimethylnaphth-1-yl)-2-[1-(ethoxyimino)butyl]-3-hydroxycyclohex-2-en-1-one (0.34 g) in acetone (20 ml) and the mixture was stirred at room temperqature for 12 hr. The mixture was filtered, the filtrate was evaporated and the residue was purified by column chromatography over silica with dichloromethane elution to give 3-benzoyloxy-5-(2,4-dimethylnaphth-1-yl)-2-[1-(ethoxyimino)butyl]cyclohex-2-en-1-one as a pale yellow oil. The product was characterized by proton nuclear magnetic resonance spectroscopy and the spectroscopic data is recorded in Table 4, Example 10.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium | [Na] | Na
reactant | 5-(2,4-dimethylnaphth-1-yl)-2-[1-(ethoxyimino)butyl]-3-hydroxycyclohex-2-en-1-one | 0.34 g | CC1=C(C2=CC=CC=C2C(=C1)C)C1CC(=C(C(C1)=O)C(CCC)=NOCC)O | C24H29NO3
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-benzoyloxy-5-(2,4-dimethylnaphth-1-yl)-2-[1-(ethoxyimino)butyl]cyclohex-2-en-1-one | C(C1=CC=CC=C1)(=O)OC1=C(C(CC(C1)C1=C(C=C(C2=CC=CC=C12)C)C)=O)C(CCC)=NOCC | C31H33NO4
